US08242153B2
To a stirred solution of 1-(4-fluoro-phenyl)-pent-4-en-1-ol (4.9 g) in dichloromethane (5 ml) was added pyridimium chlorochromate (7.033 g). The reaction mixture was stirred for 16 hours at room temperature. Silica gel was added and the solvent was evaporated. Column chromatography (SiO2; heptane/EtOAc 4:1) gave 1-(4-fluoro-phenyl)-pent-4-en-1-one (4.67 g, 96%) as a light yellow liquid.MS (EI): 178.0 ([M+H]+)), 123.0 (F—C6H4CO+)

reactant | 1-(4-fluoro-phenyl)-pent-4-en-1-ol | 4.9 g | FC1=CC=C(C=C1)C(CCC=C)O | C11H13FO
reactant | chlorochromate | 7.033 g | [Cr](=O)(=O)([O-])Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(4-fluoro-phenyl)-pent-4-en-1-one | 4.67 g, 96% | FC1=CC=C(C=C1)C(CCC=C)=O | C11H11FO
